US07700594B2
To a solution of 7-trifluoromethyl-benzo[b]thiophene (0.52 g, 0.0026 mol) in THF (30 mL) at −78° C. was added 2.5 M of n-BuLi in hexane (1.4 mL). The reaction was then slowly warmed up to −30° C. over 30 min. and stirred at this temperature for 10 min prior to recooling to −78° C. and treatment with triisopropyl borate (0.7255 g, 0.0038 mol). The reaction was then slowly warmed up to 0° C. then was quenched with saturated ammonium chloride and the solvent removed in vacuo. To the residue was added aqueous sodium hydroxide (10 mL, 2N solution) followed by water (30 mL) then this mixture was extracted with DCM. The aqueous solution was acidified using dilute sulfuric acid (2N solution), filtered and the residue dried in vacuo to yield 7-trifluoromethylbenzo[b]thiophen-2-boronic acid. 1H NMR (400 MHz, MeOD) δ ppm 7.55 (1H, t, J=7.45 Hz), 7.75 (1H, d, J=7.07 Hz), 8.02 (1H, s) and 8.17 (1H, d, J=7.83 Hz).

reactant | 7-trifluoromethyl-benzo[b]thiophene | 0.0026 mol, 0.52 g | FC(C1=CC=CC2=C1SC=C2)(F)F | C9H5F3S
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | triisopropyl borate | 0.0038 mol, 0.7255 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.4 mL | CCCCCC | C6H14
product | 7-trifluoromethylbenzo[b]thiophen-2-boronic acid | FC(C1=CC=CC2=C1SC(=C2)B(O)O)(F)F | C9H6BF3O2S
